US06339093B1
(R)-{1-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-yl]-pyrrolidin-2-yl}-methanol
The title compound, m.p. 74-80° C., [α]D20 =30 63.2° (c=0.53, methanol) and MS: m/e=360.3 (M+H+), was prepared from 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline and D-prolinol.

reactant | 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline | ClC1=NC2=CC=CC=C2C(=C1)N1CC2=CC=CC=C2CC1 | C18H15ClN2
reactant | D-prolinol | N1[C@@H](CO)CCC1 | C5H11NO
solvent | methanol | CO | CH4O
product | (R)-{1-[4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-2-yl]-pyrrolidin-2-yl}-methanol | C1N(CCC2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)N1[C@H](CCC1)CO | C23H25N3O
